US08232272B2
N-{2-[5-{1-methyl-2-[3-(trifluoromethyl)phenyl]-1H-benzimidazol-5-yl}-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]ethyl}benzenesulfonamide
To 2 ml of dichloromethane in 177 μl (1.28 mM) of triethylamine are added 150 mg (0.32 mM) of 342-aminoethyl)-5-{1-methyl-2-[3-(trifluoromethyl)phenyl]-1H-benzimidazol-5-yl}-3,6-dihydro-2H-1,3,4-thiadiazin-2-one hydrochloride and 67.7 μl (0.38 mM) of benzenesulfonyl chloride. The mixture is stirred at room temperature for 20 hours. The solid is filtered off and washed with water to give, after drying, 138 mg of N-{2-[5-{1-methyl-2-[3-(trifluoromethyl)phenyl]-1H-benzimidazol-5-yl}-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]ethyl}benzenesulfonamide.

reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | 5-{1-methyl-2-[3-(trifluoromethyl)phenyl]-1H-benzimidazol-5-yl}-3,6-dihydro-2H-1,3,4-thiadiazin-2-one hydrochloride | Cl.CN1C(=NC2=C1C=CC(=C2)C2=NNC(SC2)=O)C2=CC(=CC=C2)C(F)(F)F
reactant | benzenesulfonyl chloride | 0.38 mM, 67.7 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethylamine | 1.28 mM, 177 μl | C(C)N(CC)CC | C6H15N
product | N-{2-[5-{1-methyl-2-[3-(trifluoromethyl)phenyl]-1H-benzimidazol-5-yl}-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]ethyl}benzenesulfonamide | CN1C(=NC2=C1C=CC(=C2)C2=NN(C(SC2)=O)CCNS(=O)(=O)C2=CC=CC=C2)C2=CC(=CC=C2)C(F)(F)F | C26H22F3N5O3S2
